US07705023B2
(a) 1-Bromo-4-cyclopentoxybenzene
A mixture of 4-bromophenol (40 g, 231 mmol), cyclopentylbromide (50 ml, 462 mmol), NaOH (18.5 g, 462 mmol) and DMF (150 mL) was stirred at 100° C. for 13.5 h, poured into water (300 mL) and extracted with t-BuOMe (4×100 mL). The combined organic extracts were washed with water (2×100 mL), brine, dried (Na2SO4), concentrated and distilled in vacuo to yield the sub-title compound (46.4 g, 94%).

reactant | 4-bromophenol | 231 mmol, 40 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | cyclopentylbromide | 462 mmol, 50 ml | C1(CCCC1)Br | C5H9Br
reactant | NaOH | 462 mmol, 18.5 g | [OH-].[Na+]
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 1-Bromo-4-cyclopentoxybenzene | 46.4 g, 94% | BrC1=CC=C(C=C1)OC1CCCC1 | C11H13BrO
